US07279494B2
III. Benzyl 3-fluoro-4-[(1E)-3-hydroxyprop-1-enyl]phenylcarbamate
A THF solution of diisobutylaluminum hydride (522 mL of a 1.0 M solution, 522 mmol) was added to a cooled (−78° C.) solution of methyl (2E)-3-(4-{[(benzyloxy)carbonyl]amino}-2-fluorophenyl)acrylate (43 g, 130 mmol) in THF (900 mL). After stirring for one hour at −78° C., additional diisobutylaluminum hydride solution was added (140 mL of a 1.0 M solution, 140 mmol). After another 30 minutes, aqueous citric acid and ethyl acetate were added and the mixture allowed to warm slowly to room temperature. The layers were separated and the aqueous phase extracted with more ethyl acetate. Combined organic phases were washed with H2O, brine and dried (MgSO4), filtered and concentrated to give a red oil. The crude product was purified by column chromatography (0-40% ethyl acetate-hexane) to provide the title compound as a yellow solid.

reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methyl (2E)-3-(4-{[(benzyloxy)carbonyl]amino}-2-fluorophenyl)acrylate | 130 mmol, 43 g | C(C1=CC=CC=C1)OC(=O)NC1=CC(=C(C=C1)/C=C/C(=O)OC)F | C18H16FNO4
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 900 mL | C1CCOC1 | C4H8O
product | Benzyl 3-fluoro-4-[(1E)-3-hydroxyprop-1-enyl]phenylcarbamate | FC=1C=C(C=CC1\C=C\CO)NC(OCC1=CC=CC=C1)=O | C17H16FNO3
